US05135838
Synthesis of 2,2'-dimethyl-3,3'-dinitrobiphenyl
A 20 mL round bottomed flask equipped with a reflux column under argon was charged with 7.05 g of 2-iodo-6-nitrotoluene and 6.55 of copper bronze. The reaction mixture was heated in an oil bath at 230° C. for 9 hours. The mixture was extracted with methylene chloride and the extract filtered. The extract was stripped of solvent and chromatographed on silica gel using carbon tetrachloride as the eluent. In this way 1.71 g (65% yield) of yellowish crystals were obtained.

reactant | 2-iodo-6-nitrotoluene | 7.05 g | IC1=C(C(=CC=C1)[N+](=O)[O-])C | C7H6INO2
catalyst | copper bronze | [Cu] | Cu
product | 2,2'-dimethyl-3,3'-dinitrobiphenyl | 1.71 g, 65% yield | CC1=C(C=CC=C1[N+](=O)[O-])C1=C(C(=CC=C1)[N+](=O)[O-])C | C14H12N2O4
